US06204277B1
2-Carbamoyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionic acid
4-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzilidene]-3,5-isooxazolidinedione (11.5 g, 29.3 mmol) synthesized according to the method described in WO95/18125 was dissolved in tetrahydrofuran (220 ml). 5% Palladium carbon (1.15 g) was added and the mixture was vigorously stirred under a hydrogen atmosphere (normal pressure) at room temperature for 13.5 hr. To the reaction mixture was added methanol (150 ml), and the catalyst was removed by celite filtration. The solvent was evaporated and the residue was suspended in 2.5N aqueous sodium hydroxide solution (50 ml) and washed with ethyl acetate. To the obtained aqueous layer was added 1N hydrochloride (150 ml) and the precipitated white solid was collected by filtration. The solid was washed with water and dried to give the title compound (5.10 g, yield 44%).

reactant | 4-[4-[2-(5-Methyl-2-phenyl-4-oxazolyl)ethoxy]benzilidene]-3,5-isooxazolidinedione | 29.3 mmol, 11.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=C2C(NOC2=O)=O)C=C1 | C22H18N2O5
reactant | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
catalyst | Palladium carbon | 1.15 g | [C].[Pd]
product | 2-Carbamoyl-3-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]phenyl]propionic acid | 5.10 g, yield 44% | C(N)(=O)C(C(=O)O)CC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C22H22N2O5
